US07700655B2
(2) 2-[2-Hydroxy-5-(2-thienyl)benzoyl]amino-4-phenylthiazole-5-carboxylic acid ethyl ester (Compound No. 223)
Using 2-hydroxy-5-(2-thienyl)benzoic acid and 2-amino-4-phenylthiazole-5-carboxylic acid ethyl ester as the raw materials, the same operation as the Example 195(3) gave the title compound.

reactant | 2-hydroxy-5-(2-thienyl)benzoic acid | OC1=C(C(=O)O)C=C(C=C1)C=1SC=CC1 | C11H8O3S
reactant | 2-amino-4-phenylthiazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N=C(S1)N)C1=CC=CC=C1 | C12H12N2O2S
product | 2-[2-Hydroxy-5-(2-thienyl)benzoyl]amino-4-phenylthiazole-5-carboxylic acid ethyl ester | Yield: 58.2% | C(C)OC(=O)C1=C(N=C(S1)NC(C1=C(C=CC(=C1)C=1SC=CC1)O)=O)C1=CC=CC=C1 | C23H18N2O4S2
